US20010027196A1
2-Amino-4-(3,5-dimethyl-pyridin-2-ylmethoxy)-6-furan-2-yl-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, (3,5-dimethylpyridin-2-yl)methanol and DBU in DME. ES-MS m/e (%): 322 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | (3,5-dimethylpyridin-2-yl)methanol | CC=1C(=NC=C(C1)C)CO | C8H11NO
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-(3,5-dimethyl-pyridin-2-ylmethoxy)-6-furan-2-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)OCC1=NC=C(C=C1C)C)C#N)C=1OC=CC1 | C17H15N5O2
